US04294986
Preparation of 3-chloro-4-(phenethyloxy)aniline
To a mixture of water (50 ml), ethanol (50 ml) and 50% aqueous sodium hydroxide (25 ml) is added 3-chloro-4-(phenethyloxy)aniline hydrochloride (8.25 g; 0.0290 mol). When the solid is all dissolved, the solution is extracted with ether (3×100 ml). The ether solution is washed with brine, dried over potassium carbonate and concentrated under vacuum to yield 5.16 g (77%) of a tan oil. This oil is distilled at 140° C. under 0.005 ml vacuum to afford the product, a colorless liquid.

reactant | water | 50 ml | O | H2O
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | 3-chloro-4-(phenethyloxy)aniline hydrochloride | 0.0290 mol, 8.25 g | Cl.ClC=1C=C(N)C=CC1OCCC1=CC=CC=C1
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-chloro-4-(phenethyloxy)aniline | 5.16 g, 77% | ClC=1C=C(N)C=CC1OCCC1=CC=CC=C1 | C14H14ClNO
